US07947683B2
4-pyridazinecarbohydrazide
To a solution of methyl 4-pyridazinecarboxylate (400 mg, 2.9 mmol) in MeOH (5 ml) was added hydrazine monohydrate (23 mmol). The solution was heated to reflux for 12 h. Volatiles were evaporated in vacuo to give 395 mg of the title compound as a yellow pale foam, which was used without further purification.

reactant | methyl 4-pyridazinecarboxylate | 2.9 mmol, 400 mg | N1=NC=C(C=C1)C(=O)OC | C6H6N2O2
reactant | hydrazine monohydrate | 23 mmol | O.NN
solvent | MeOH | 5 ml | CO | CH4O
product | 4-pyridazinecarbohydrazide | 395 mg | N1=NC=C(C=C1)C(=O)NN | C5H6N4O
